US05082844
A mixed solution of 5.0 g of 5-chloro-2-cyanophenol and 6.0 g of R-(-)-epichlorohydrin was heated at 120° C. for 2 hours under a nitrogen stream. Toluene (50 ml), 0.1 g of benzyl triethylammonium chloride and 20 ml of a 30% sodium hydroxide were added, and the mixture was stirred at room temperature for 2 hours. The organic layer was separated and dried over magnesium sulfate. The solvent was then evaporated. Ethanol was added to the residue to crystallize it. The crystals were then recrystrallized from ethyl acetate to give 2.4 g (2S)-(+)-(5-chloro-2-cyanophenoxy)-2,3-epoxypropane.

reactant | 5-chloro-2-cyanophenol | 5.0 g | ClC=1C=CC(=C(C1)O)C#N | C7H4ClNO
reactant | R-(-)-epichlorohydrin | 6.0 g | C1[C@@H](O1)CCl | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | benzyl triethylammonium chloride | 0.1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (2S)-(+)-(5-chloro-2-cyanophenoxy)-2,3-epoxypropane | 2.4 g | ClC=1C=CC(=C(OC[C@@H]2CO2)C1)C#N | C10H8ClNO2
